US05665747
1,1-Bis(4-methyl-2-thiazolyl)-2,2,2-trifluoroethanol
From 4-methylthiazole and 4-methyl-2-trifluoroacetylthiazole and using anhydrous tetrahydrofuran as solvent.

reactant | 4-methylthiazole | CC=1N=CSC1 | C4H5NS
reactant | 4-methyl-2-trifluoroacetylthiazole | CC=1N=C(SC1)C(C(F)(F)F)=O | C6H4F3NOS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1-Bis(4-methyl-2-thiazolyl)-2,2,2-trifluoroethanol | CC=1N=C(SC1)C(C(F)(F)F)(O)C=1SC=C(N1)C | C10H9F3N2OS2
